US04407797
3,4-Dihydroxyphenacyl chloride (7 g) is added to a suspension of 5-(pyrrolidin-1-yl)-1,2-dithiol-3-thione (5.1 g) and sodium iodide (6.2 g) in acetone (90 cc), and the reaction mixture is kept under reflux for 1 hour. After cooling, the insoluble product is filtered off and washed successively with acetone (3×20 cc), with water (3×20 cc) and then with diethyl ether (3×20 cc). By recrystallisation of the resulting product from a dimethylformamide/methanol mixture (20/80 by volume; 600 cc) and then desolvation by stirring for 30 minutes in water (100 cc), N-[5-(3,4-dihydroxyphenacylthio)-1,2-dithiol-3-ylidene]-pyrrolidinium iodide hydrate (6.9 g), melting at about 130° C., is obtained.

reactant | 3,4-Dihydroxyphenacyl chloride | 7 g | OC=1C=C(C(CCl)=O)C=CC1O | C8H7ClO3
reactant | 5-(pyrrolidin-1-yl)-1,2-dithiol-3-thione | 5.1 g | N1(CCCC1)C1=CC(SS1)=S | C7H9NS3
reactant | sodium iodide | 6.2 g | [I-].[Na+]
solvent | acetone | 90 cc | CC(=O)C | C3H6O
product | N-[5-(3,4-dihydroxyphenacylthio)-1,2-dithiol-3-ylidene]-pyrrolidinium iodide hydrate | 6.9 g | O.[I-].OC=1C=C(C(CSC2=CC(SS2)=[N+]2CCCC2)=O)C=CC1O | InChI=1S/C15H15NO3S3.HI.H2O/c17-11-4-3-10(7-12(11)18)13(19)9-20-15-8-14(21-22-15)16-5-1-2-6-16;;/h3-4,7-8H,1-2,5-6,9H2,(H-,17,18,19);1H;1H2
